US07727988B2
5-Iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione (Prep40)
3-Benzoyl-5-iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione (Prep 39, 840 mg, 1.38 mmol) was dissolved in 10% NH3 in MeOH solution (5 mL). The mixture was stirred at room temperature for 1 hour, the solvent was then evaporated under vacuum and the crude purified by flash chromatography with DCM-MeOH—NH4OH (98-2-1) to give the title compound as a white solid (515 mg, 74% yield).

reactant | 3-Benzoyl-5-iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione | 1.38 mmol, 840 mg | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)I)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H23F3IN3O3
solvent | NH3 | N | H3N
solvent | MeOH | 5 mL | CO | CH4O
product | 5-Iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione | 515 mg, 74% yield | IC=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C19H19F3IN3O2
